US03948939
D. 1,2,3,4-Tetrahydrocarbazole-4-carboxylic acid
To 40 g. 9-benzyl-1,2,3,4-tetrahydrocarbazole-4-carboxylic acid in one liter of liquid ammonia was added, with stirring and portionwise, 8.6 g. of sodium. Ammonium chloride was added portionwise until the blue color of the mixture was dissipated. The ammonia was evaporated, water was added and the mixture was extracted with ether. The aqueous solution was chilled and acidified with dilute hydrochloric acid and the resulting solid was collected by filtration and washed with water to give 23 g. of the title compound; m.p. 163°-165°C. (benzene-methyl alcohol).

reactant | 9-benzyl-1,2,3,4-tetrahydrocarbazole-4-carboxylic acid | C(C1=CC=CC=C1)N1C2=CC=CC=C2C=2C(CCCC12)C(=O)O | C20H19NO2
reactant | ammonia | N | H3N
reactant | sodium | [Na] | Na
reactant | Ammonium chloride | [Cl-].[NH4+]
product | 1,2,3,4-Tetrahydrocarbazole-4-carboxylic acid | C1CCC(C=2C3=CC=CC=C3NC12)C(=O)O | C13H13NO2
